US08623889B2
To a solution of N-(7-bromoisoquinolin-3-yl)cyclopropanecarboxamide (131.8 mg, 0.4527 mmol) in tetrahydrofuran (6.0 mL, 74 mmol) in an oven-dried flask at 0° C. was added DPPPNiCl2 (18.2 mg, 0.0336 mmol) followed by 2.0 M of cyclohexylmagnesium chloride in ether (0.60 mL). The reaction was stirred at 0° C. for 1.5 hours and then heated at 40° C. overnight. DPPPNiCl2 (21 mg) and 2.0 M of cyclohexylmagnesium chloride in ether (0.60 mL) were added. The reaction was heated at 50° C. for an additional 3.5 hours. The mixture was then partitioned between ethyl acetate and water, and the organic layer was washed with water and brine, dried over MgSO4, filtered, and evaporated in vacuo. The crude product was purified via reverse phase HPLC and lyophilized to yield 24.8 mg (19%) of N-(7-cyclohexylisoquinolin-3-yl)cyclopropanecarboxamide. LCMS (ESI): RT (min)=5.228, M+H=295.1, method=E; 1H NMR (400 MHz, DMSO-d6) δ 10.84 (s, 1H), 9.06 (s, 1H), 8.40 (s, 1H), 7.82 (s, 1H), 7.77 (d, J=8.6 Hz, 1H), 7.61 (dd, J=8.6, 1.7 Hz, 1H), 2.67 (t, J=11.7 Hz, 1H), 2.10-1.99 (m, 1H), 1.93-1.79 (m, 4H), 1.74 (d, J=12.3 Hz, 1H), 1.58-1.20 (m, 5H), 0.82 (dq, J=4.9, 2.9 Hz, 4H).

reactant | N-(7-bromoisoquinolin-3-yl)cyclopropanecarboxamide | 0.4527 mmol, 131.8 mg | BrC1=CC=C2C=C(N=CC2=C1)NC(=O)C1CC1 | C13H11BrN2O
reactant | tetrahydrofuran | 74 mmol, 6.0 mL | O1CCCC1 | C4H8O
reactant | cyclohexylmagnesium chloride | 2.0 M | C1(CCCCC1)[Mg]Cl
reactant | cyclohexylmagnesium chloride | 2.0 M | C1(CCCCC1)[Mg]Cl
solvent | ether | 0.60 mL | CCOCC | C4H10O
solvent | ether | 0.60 mL | CCOCC | C4H10O
product | N-(7-cyclohexylisoquinolin-3-yl)cyclopropanecarboxamide | 24.8 mg, 19% | C1(CCCCC1)C1=CC=C2C=C(N=CC2=C1)NC(=O)C1CC1 | C19H22N2O
